US03970693
A mixture of 45.7 g. (0.3 mole) of 4'-fluoropropiophenone, 9 g. (0.3 mole) of paraformaldehyde, 4 g. (0.03 mole) of anhydrous potassium carbonate and 200 ml. of methyl alcohol is stirred at 35°C for 2 days. The reaction is quenched in water and acidified with hydrochloric acid. The product is extracted into benzene. The benzene layer is washed with water and concentrated in vacuo to give 4'-fluoro-3-hydroxy-2-methylpropiophenone.

reactant | 4'-fluoropropiophenone | 0.3 mole | FC1=CC=C(C=C1)C(CC)=O | C9H9FO
reactant | paraformaldehyde | 0.3 mole | C=O | CH2O
reactant | potassium carbonate | 0.03 mole | C([O-])([O-])=O.[K+].[K+]
solvent | methyl alcohol | CO | CH4O
product | 4'-fluoro-3-hydroxy-2-methylpropiophenone | FC1=CC=C(C=C1)C(C(CO)C)=O | C10H11FO2
